US06624159B2
N-(4-Chlorobenzyl)-6-(morpholin-4-ylmethyl)-3-oxo-9,10dihydro-3H,8H-pyrido[3,2,1-ij]quinoline-2-carboxamide [BQ.6]
To a solution of 4-chlorobenzylamine (142 mg, delivered as a 1M methylene chloride solution) in anhydrous CH2Cl2 (3 mL), is added trimethylaluminum (482 μL, 2 M solution in heptane). After two hours at room temperature, ethyl 6-(morpholin-4-ylmethyl)-3-oxo-9,10-dihydro-3H,8H-pyrido[3,2,1-ij]quinoline-2-carboxylate (Preparation 18, 327 mg) is added as a solid in one portion. Stirring is continued for 2.5 hours before quenching with 10 mL of a 35% aqueous solution of Rochelle's salt. This biphasic, gelatinous mixture is stirred for two hours before separating the layers and extracting the aqueous layer five times with CH2Cl2. The resulting solution is concentrated in vacuo to give a bright yellow solid which is recrystallized from acetone (reflux, 62 mL/g) to afford 251 mg (73%) of the title compound as a canary yellow solid. Physical characteristics: M.p. 200-201° C.; 1H NMR (CDCl3); δ10.2, 9.07, 8.54, 7.41, 7.33, 7.28, 4.67, 3.71, 3.53, 3.02, 2.48, 2.02; 13C NMR (CDCl3): δ165.5, 157.5, 140.6, 138.6, 137.7, 134.7, 132.7, 130.9, 129.0, 128.6, 127.1, 125.2, 113.1, 109.2, 66.8, 60.4, 53.6, 42.9, 30.4, 28.7, 21.3; HRMS m/z 452.1747 (C25H26ClN3O3+H).

reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | trimethylaluminum | 2 M, 482 μL | C[Al](C)C
reactant | ethyl 6-(morpholin-4-ylmethyl)-3-oxo-9,10-dihydro-3H,8H-pyrido[3,2,1-ij]quinoline-2-carboxylate | 327 mg | N1(CCOCC1)CC=1C=C2CCCC=3C=C(C(N(C23)C1)=O)C(=O)OCC | C20H24N2O4
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorobenzyl)-6-(morpholin-4-ylmethyl)-3-oxo-9,10dihydro-3H,8H-pyrido[3,2,1-ij]quinoline-2-carboxamide | 251 mg, 73% | ClC1=CC=C(CNC(=O)C=2C(N3C=4C(CCCC4C2)=CC(=C3)CN3CCOCC3)=O)C=C1 | C25H26ClN3O3
